US06825189B1
4-Methyl-1-(3-pyridyl)-homopiperazine (1E)
A solution of 1-(3-pyridyl)-homopiperazine (0.42 g, 2.4 mmol), formic acid (3.3 g, 71.7 mmol), formaldehyde (2.1 g, 37%) and water (10 ml) was stirred at reflux for 15 h. The mixture was evaporated and sodium hydroxide (15 ml, 4 M) was added and the product was extracted two times with ethyl acetate (15 ml). The product was obtained as an oil. Yield 0.46 g,100%.

reactant | 1-(3-pyridyl)-homopiperazine | 2.4 mmol, 0.42 g | N1=CC(=CC=C1)N1CCNCCC1 | C10H15N3
reactant | formic acid | 71.7 mmol, 3.3 g | C(=O)O | CH2O2
reactant | formaldehyde | 2.1 g | C=O | CH2O
solvent | water | 10 ml | O | H2O
product | 4-Methyl-1-(3-pyridyl)-homopiperazine | CN1CCN(CCC1)C=1C=NC=CC1 | C11H17N3
